US06878717B2
To a flask under Argon was added 4-amino-2,5,6-trichloropyrimidine (0.08564 mol), 4-amino-benzonitrile (0.1071 mol), 1-methyl-2-pyrrolidinone (17 ml) and HCl in diethylether (1M; 85.6 ml). The mixture was placed in an oil bath at 130° C. under a stream of nitrogen until the ether was gone. An additional 10 ml of 1-methyl-2-pyrrolidinone was added. The mixture was heated at 145° C. for 16 hours under argon. 1,4-Dioxane was added. The mixture was refluxed, cooled, then filtered. The filtrate was evaporated. The residue was dissolved in CH2Cl2, washed with 1 N NaOH, then filtered. The solid was dissolved in 2-propanone, evaporated onto silica gel, and chromatographed using 1-3% 2-propanone in hexane as eluent. The pure fractions were collected and the solvent was evaporated, yielding 1.63 g (6.8%) of 4-[(4-amino-5,6-dichloro-2-pyrimidinyl)amino]benzonitrile (interm. 12).

reactant | 4-amino-2,5,6-trichloropyrimidine | 0.08564 mol | NC1=NC(=NC(=C1Cl)Cl)Cl | C4H2Cl3N3
reactant | 4-amino-benzonitrile | 0.1071 mol | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 1-methyl-2-pyrrolidinone | 17 ml | CN1C(CCC1)=O | C5H9NO
reactant | HCl | Cl | ClH
reactant | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | diethylether | 1M, 85.6 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | 1,4-Dioxane | O1CCOCC1 | C4H8O2
product | 4-[(4-amino-5,6-dichloro-2-pyrimidinyl)amino]benzonitrile | 1.63 g, 6.8% | NC1=NC(=NC(=C1Cl)Cl)NC1=CC=C(C#N)C=C1 | C11H7Cl2N5
